US06333323B1
To a solution of 1.40 g (4 mmol) of the above-mentioned compound in carbon tetrachloride (50 ml) were added 0.71 g of N-bromosuccinimide and 10 mg of benzoyl peroxide, and the mixture was stirred at reflux for 3.5 hours. The reaction mixture was cooled and the precipitated crystal was filtered off. The filtrate was concentrated and allowed to stand. The obtained crystal was washed with a small amount of ethyl acetate to give 1.51 g of 3-acetyl-1-benzenesulfonyl-2-bromomethyl-,5-chloroindole. Yield: 88%.

reactant | N-bromosuccinimide | 0.71 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 10 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-chloroindole | Yield: 88% | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
